US04182790
N-Dodecylacrylamide
To acrylonitrile (212 pbw), propylene tetramer (673 pbw) and phenothiazine (0.4 pbw) is added 85% sulfuric acid (520 pbw) at 40° C. over a period of one hour. The mixture is held at 40° to 42° C. for 12 hours. After cooling the upper layer of unreacted olefin is separated and the lower layer poured into ice water (1600 pbw). This mixture is stirred overnight then partitioned with 2 portions (500 pbw) of toluene. The combined organic phase is worked with 3 portions of water totalling 300 pbw and then to neutrality with 20% sodium carbonate. After drying over sodium sulfate and the addition of p-methoxyphenol, the solution is concentrated in vacuo to obtain the title product as a viscous yellow liquid (572 pbw).

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | propylene tetramer | CC#C | C3H4
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-Dodecylacrylamide | C(CCCCCCCCCCC)NC(C=C)=O | C15H29NO
